US07615563B2
5,7-Dichloro-1H-indol-2-carboxylic acid [4-(thiazol-2-ylsulfamoyl)-phenyl]-amide
To a solution of 5,7-dichloro-indole-2-carbonylchloride (186 mg, 0.75 mmol) in pyridine (0.8 mL, 1 mmol) and DCM (5.2 mL) was added N′-(2-thiazolyl)sulfanilamide (128 mg, 0.5 mmol) and the reaction mixture stirred at rt for 16 h. The resulting solid was filtered, washed with DCM (3×5 mL), and dried under vacuum overnight to provide the product (0.21 g; yield=90%) as a white-green solid. 1H-NMR (DMSO-d6) 12.78 (s, 1H), 12.33 (s, 1H), 10.67 (s, 1H), 7.97 (d, J=7.0 Hz, 2H), 7.82 (d, J=7.0 Hz, 2H), 7.62 (d, J=1.5 Hz, 1H), 7.47 (s, 1H), 7.30 (d, J=1.7 Hz, 1H), 7.27 (d, J=4.6 Hz, 1H), 6.84 (d, J=4.6 Hz, 1H). LC/MS (10-99%) M/Z: M+1 obs=467.0; tR=3.12 min.

reactant | 5,7-dichloro-indole-2-carbonylchloride | 0.75 mmol, 186 mg | ClC=1C=C2C=C(NC2=C(C1)Cl)C(=O)Cl | C9H4Cl3NO
reactant | pyridine | 1 mmol, 0.8 mL | N1=CC=CC=C1 | C5H5N
reactant | N′-(2-thiazolyl)sulfanilamide | 0.5 mmol, 128 mg | C1=CC(=CC=C1N)S(=O)(=O)NC2=NC=CS2 | C9H9N3O2S2
solvent | DCM | 5.2 mL | C(Cl)Cl | CH2Cl2
product | 5,7-Dichloro-1H-indol-2-carboxylic acid [4-(thiazol-2-ylsulfamoyl)-phenyl]-amide | yield=90% | S1C(=NC=C1)NS(=O)(=O)C1=CC=C(C=C1)NC(=O)C=1NC2=C(C=C(C=C2C1)Cl)Cl | C18H12Cl2N4O3S2
